US04617146
26 g of 2,2,5,5,6-pentamethylcyclohexanone are dissolved in 500 ml of ether and treated slowly at -20° C. with 113.5 ml of methyl lithium (1.5 molar in ether). After stirring for 3.5 hours at 0° C., the mixture is poured on to ice, acidified with 1N hydrochloric acid, extracted with ethyl acetate, dried and evaporated. Distillation of the crude product gives 25.9 g of 1-hydroxy-1,2,2,5,5,6-hexamethylcyclohexane as a colourless liquid of boiling point 87°-92° C./10 mm Hg.

reactant | 2,2,5,5,6-pentamethylcyclohexanone | 26 g | CC1(C(C(C(CC1)(C)C)C)=O)C | C11H20O
reactant | methyl lithium | 1.5 molar, 113.5 ml | C[Li]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ether | 500 ml | CCOCC | C4H10O
product | 1-hydroxy-1,2,2,5,5,6-hexamethylcyclohexane | 25.9 g | OC1(C(CCC(C1C)(C)C)(C)C)C | C12H24O
